US03988339
8-Amino-7-chloro-1,2,3,4-tetrahydroisoquinoline, prepared as in Example 12, is treated with one molar equivalent of isopropenyl acetate in refluxing ethyl acetate for 16 hours. The solvent is evaporated and the residue crystallized from benzene to yield 2-acetyl-8-amino-7-chloro-1,2,3,4-tetrahydroisoquinoline.

reactant | 8-Amino-7-chloro-1,2,3,4-tetrahydroisoquinoline | NC=1C(=CC=C2CCNCC12)Cl | C9H11ClN2
reactant | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-acetyl-8-amino-7-chloro-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)Cl)N | C11H13ClN2O
